US08633189B2
To 7-(3-bromo-4-nitro-phenyl)-7-azabicyclo[2.2.1]heptane (500 mg, 1.68 mmol), Pd(PPh3)2Cl2 (59 mg, 0.08 mmol), and CuI (10 mg, 0.05 mmol) were added DMF (5 mL), triethylamine (5 mL), and N,N-dimethylprop-2-yn-1-amine (420 mg, 538 μL, 5.05 mmol) under N2 atmosphere. The reaction was heated under microwave irradiation for 10 min at 100° C. The reaction mixture was diluted with ethyl acetate, washed with 50% saturated NaHCO3 (2×20 mL), water, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to a red solid. Purification by silica gel chromatography (0-50% dichloromethane/ethyl acetate) provided 3-[5-(7-Azabicyclo[2.2.1]heptan-7-yl)-2-nitro-phenyl]-N,N-dimethyl-prop-2-yn-1-amine (400 mg, 79% yield). LC/MS m/z 300.5 [M+H]+.

reactant | 7-(3-bromo-4-nitro-phenyl)-7-azabicyclo[2.2.1]heptane | 1.68 mmol, 500 mg | BrC=1C=C(C=CC1[N+](=O)[O-])N1C2CCC1CC2 | C12H13BrN2O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylprop-2-yn-1-amine | 5.05 mmol, 538 μL, 420 mg | CN(CC#C)C | C5H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.08 mmol, 59 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
product | 3-[5-(7-Azabicyclo[2.2.1]heptan-7-yl)-2-nitro-phenyl]-N,N-dimethyl-prop-2-yn-1-amine | 400 mg, 79% yield | C12CCC(CC1)N2C=2C=CC(=C(C2)C#CCN(C)C)[N+](=O)[O-] | C17H21N3O2
